US05506219
A solution of carbon tetrabromide (2.866 gm, 8.64 mmol) in CH2Cl2 (8 ml) was added over a 10 minute period to a cold (-10° C.) solution of 2-(4-Fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde (1.840 gm, 5.76 mmol) (the preparation of which is described in Example 3) and triphenylphosphine (4.590 gm, 17.5 mmol) in CH2Cl2 (30 ml). After the addition was complete, the cooling bath was removed and the mixture was stirred for 20 minutes. The solution was quenched with saturated NaHCO3 and extracted 2× with CH2Cl2. The combined organic layers were washed with saturated NaHCO3, dried (Na2SO4), filtered and concentrated. The concentrate was chromatographed (flash, Merck, SiO2, 1:1 CH2Cl2 : hexane) to give 3-(2,2-Dibromoethenyl)-2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenylpyridine as a white solid (2.701 gm, 99%).

reactant | carbon tetrabromide | 8.64 mmol, 2.866 gm | C(Br)(Br)(Br)Br | CBr4
reactant | 2-(4-Fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde | 5.76 mmol, 1.840 gm | FC1=CC=C(C=C1)C1=NC(=CC(=C1C=O)C(C)C)C1=CC=CC=C1 | C21H18FNO
reactant | triphenylphosphine | 17.5 mmol, 4.590 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,2-Dibromoethenyl)-2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenylpyridine | 2.701 gm, 99% | BrC(=CC=1C(=NC(=CC1C(C)C)C1=CC=CC=C1)C1=CC=C(C=C1)F)Br | C22H18Br2FN
